US07253286B2
6-(4-Nitrophenoxy)pyrimidin-4-ylamine
4-Chloro-6-(4-nitrophenoxy)pyrimidine (1.04 g, 4.00 mmol) was heated and stirred in an ammonia-ethanol solution (14%, 10 ml) at 110° C. for 15 minutes using an autoclave. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:hexane=1:1), and the fraction containing the target substance was concentrated to obtain the title compound (306 mg, 1.32 mmol, 33%) as colorless crystals.

reactant | 4-Chloro-6-(4-nitrophenoxy)pyrimidine | 4.00 mmol, 1.04 g | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
reactant | ammonia ethanol | 10 ml | N.C(C)O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 6-(4-Nitrophenoxy)pyrimidin-4-ylamine | 1.32 mmol, 306 mg, 33% | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=N2)N)C=C1 | C10H8N4O3
